US07226951B2
4-Bromo-2-tert-butyl-5-methyl-phenol (Intermediate 139)
A solution of 4-bromo-3-methylphenol (Aldrich, 5.1 g, 27.3 mmol) in anhydrous dichloromethane (50 mL) was treated with 2-methyl-2-propanol (15 mL) and concentrated sulfuric acid (3 mL) and stirred at ambient temperature for 3 months. The volatiles were evaporated in vacuo, the residue was diluted with water and extracted with diethyl ether. The combined organic phase was dried over anhydrous magnesium sulfate, filtered and evaporated in vacuo to an oil. Flash column chromatography using 3–5% ethyl acetate in hexane as the eluent afforded the title compound as a deep yellow oil (3.42 g, 51%). It was used as such for the next step.

reactant | 4-bromo-3-methylphenol | 27.3 mmol, 5.1 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | 2-methyl-2-propanol | 15 mL | CC(C)(C)O | C4H10O
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 4-Bromo-2-tert-butyl-5-methyl-phenol | 3.42 g, 51% | BrC1=CC(=C(C=C1C)O)C(C)(C)C | C11H15BrO
